Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9],-5.66698392263
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]=[C:7]([H:8])[H:9].[H:1][C:2]([O:3][C:4][H:5])[C:10]([H:11])([H:12])[H:13],5.50566491113
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:5],1.61024322325
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12],-0.7165388468089999
[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3](=[O:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]([C:2])[H:5],2.89411087657
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:5],4.74024957504
[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7]>>[C:5][O:6][H:7].[H:1][C:2]#[C:3][O:4],2.53659291406
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:12]([H:13])([H:14])[H:15],5.21157755448
[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3].[O:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],4.10688992447
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],7.726602379530001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5][H:6],4.40852126768
[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:1][O:2][C:3]#[C:4].[C:5]([H:6])([H:7])[O:8][H:9],3.74874628061
[H:1][C:2][O:3][C:4]#[C:6][C:7]([H:8])[H:9].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-4.61645892866
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9].[O:10][H:11],2.75061914751
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.64971093554
[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[O:8][H:9]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-3.76009538858
[H:1][O:2][C@@:3]1([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:11]([C:5][O:6][C:7]([H:8])([H:9])[H:10])([H:12])[H:13],1.22886969483
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-2.0209896260900004
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]1([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-1.4013277558
[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])[H:5],3.51169995014
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[O:1],4.07861056741
[C:1]#[C:2]/[C:3](=[C:4]\[O:5][H:6])[C:7]([H:8])[H:9].[H:10]>>[C:1]#[C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.83580269615
[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:6]([H:7])=[C:8]([H:9])[O:10][H:11].[H:1][C:2][O:3][C:4][H:5],5.9740115242
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9],5.9632125765
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],5.09352866395
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13].[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.61708994701
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10],5.23471683431
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13].[H:4],1.89364938186
[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],3.98380529791
[C:8]([H:9])#[C:10][C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-0.7049158614390001
